US07348456B2
Step B: 2-(2-Methoxyphenyloxy)propenoic Acid
To a solution of methyl 2-(2-methoxyphenyloxy)propenoate (0.30 g, 1.4 mmol) in tetrahydrofuran (30 mL) and water (30 mL was added lithium hydroxide monohydrate 0.17 g, 4.0 mmol). After stirring at room temperature overnight, the reaction was quenched by addition of concentrated hydrochloric acid (final pH=2), and the product was extracted with ethyl acetate (3×100 mL). The combined extracts were dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.42 (ddd, 1H), 7.22 (dd, 1H), 7.10 (dd, 1H), 6.97 (ddd, 1H), 5.48 (d, 1H), 4.51 (d, 1H), 3.64 (s, 3H).

reactant | methyl 2-(2-methoxyphenyloxy)propenoate | 1.4 mmol, 0.30 g | COC1=C(C=CC=C1)OC(C(=O)OC)=C | C11H12O4
reactant | water | 4.0 mmol, 30 mL, 0.17 g | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(2-Methoxyphenyloxy)propenoic Acid | COC1=C(C=CC=C1)OC(C(=O)O)=C | C10H10O4
